US05905076
A mixture of 1-phenyl-1,2-ethanediol (1.38 g, 10 mmole), immidazole (817 mg, 12 mmole), and tert-butylchlorodimethylsilane (1.81 g, 12 mmole) in DMF 15 (ml) was stirred at 0° C. for 1.5 hrs and then at room temperature overnight. The resulting mixture was diluted with ethyl acetate, washed with water, brine, and dried over sodium sulfate. After removal of the solvent, the residue was purified by silica gel column chromatography using ethyl acetate-hexane (1:4) as eluent. 2-(tert-butyidimethylsilyl)oxy-1-phenylethanol was obtained as an oil (2.6 g, 100% yield).

reactant | 1-phenyl-1,2-ethanediol | 10 mmole, 1.38 g | C1(=CC=CC=C1)C(CO)O | C8H10O2
reactant | immidazole | 12 mmole, 817 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 12 mmole, 1.81 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(tert-butyidimethylsilyl)oxy-1-phenylethanol | [Si](C)(C)(C(C)(C)C)OCC(O)C1=CC=CC=C1 | C14H24O2Si
